US05935951
b) Benzyl [1-(4-nitrobenzyl)but-3-enyl]ethoxymethylcarbamate
A mixture of 10 ml of 50% strength aqueous sodium hydroxide solution, 25 ml of methylene chloride and 130 mg (0.4 mmol) of benzyltributylammonium chloride is vigorously stirred at 5-10° C. Benzyl [1-(4-nitrobenzyl)but-3-enyl]carbamate (6.8 g, 20.0 mmol) is added in one portion followed by 2.64 g (28 mmol) of chloromethyl ethyl ether over a period of 2 hours. The mixture is then stirred at room temperature for 1 hour, diluted with ice and water and extracted with methylene chloride. The organic phase is dried over sodium sulfate, evaporated and chromatographed on silica gel (hexane/ethyl acetate (10:1)). The title compound is obtained as a colourless oil. TLC: ethyl acetate/hexane (1:3) Rf =0.41. FD-MS: M+ : 398.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
reactant | Benzyl [1-(4-nitrobenzyl)but-3-enyl]carbamate | 20.0 mmol, 6.8 g | [N+](=O)([O-])C1=CC=C(CC(CC=C)NC(OCC2=CC=CC=C2)=O)C=C1 | C19H20N2O4
reactant | chloromethyl ethyl ether | 28 mmol, 2.64 g | C(C)OCCl | C3H7ClO
catalyst | benzyltributylammonium chloride | 0.4 mmol, 130 mg | [Cl-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | Benzyl [1-(4-nitrobenzyl)but-3-enyl]ethoxymethylcarbamate | [N+](=O)([O-])C1=CC=C(CC(CC=C)N(C(OCC2=CC=CC=C2)=O)COCC)C=C1 | C22H26N2O5
